US07544690B2
To a solution of (4-amino-benzyl)-carbamic acid tert-butyl ester (1.11 g, 5 mmol), biphenyl carboxylic acid (0.99 g, 5 mmol), EDC (1.2 g, 6.25 mmol), and HOAt (0.82 g, 6 mmol) in CH2CG2 (10 mL) was added triethylamine (pH=10) and the mixture was stirred at ambient temperature for overnight. The organic layer was washed with saturated aqueous NaHCO3, 1 M aqueous HCl, water, dried over Na2SO4, filtered, and concentrated. The residue was dissolved in 50% TFA in CH2Cl2 (10 mL) and the mixture was stirred at ambient temperature. After 30 minutes, the mixture was concentrated and diluted with 1 M HCl in Et2O (5 mL). The mixture was concentrated to give biphenyl-4-carboxylic acid (4-aminomethyl-phenyl)-amide hydrochloride (828 mg, 49%).

reactant | (4-amino-benzyl)-carbamic acid tert-butyl ester | 5 mmol, 1.11 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
reactant | biphenyl carboxylic acid | 5 mmol, 0.99 g | C=1(C(=CC=CC1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | EDC | 6.25 mmol, 1.2 g
reactant | HOAt | 6 mmol, 0.82 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | triethylamine | pH=10 | C(C)N(CC)CC | C6H15N
product | biphenyl-4-carboxylic acid (4-aminomethyl-phenyl)-amide hydrochloride | 828 mg, 49% | Cl.NCC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | InChI=1S/C20H18N2O.ClH/c21-14-15-6-12-19(13-7-15)22-20(23)18-10-8-17(9-11-18)16-4-2-1-3-5-16;/h1-13H,14,21H2,(H,22,23);1H
